US06737409B2
To a stirred solution of (2S)-2-[(1R,2S)-2-carboxy-1-methylsulfanyl-propyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (1.7 g, 5.6 mmol) in CH2Cl2 (20 mL) were added 3-hydroxyphenethylamine hydrobromide (2.44 g, 11.2 mmol), BOP(3.72 g, 8.4 mmol), HOBT (1.29 g, 8.4 mmol), and diisopropylethylamine (4.88 mL, 28.0 mmol) at room temperature. After being stirred at room temperature for 2 hr, the mixture was quenched with 1N HCl (80 mL×3), extracted with AcOEt, dried (MgSO4) and concentrated in vacuo to give a crude oil, which was purified by flash column chromatography (hexane:AcOEt=1:1) to give (2S)-2-{(1R,2S)-2-[2-(3-hydroxy-phenyl)-ethylcarbamoyl]-1-methylsulfanyl-propyl}-pyrrolidine-1-carboxylic acid tert-butyl ester as a gum (2.07 g, 87%).

reactant | (2S)-2-[(1R,2S)-2-carboxy-1-methylsulfanyl-propyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 5.6 mmol, 1.7 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)[C@@H]([C@@H](C)C(=O)O)SC | C14H25NO4S
reactant | 3-hydroxyphenethylamine hydrobromide | 11.2 mmol, 2.44 g | Br.OC=1C=C(CCN)C=CC1
reactant | BOP | 8.4 mmol, 3.72 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | HOBT | 8.4 mmol, 1.29 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 28.0 mmol, 4.88 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (2S)-2-{(1R,2S)-2-[2-(3-hydroxy-phenyl)-ethylcarbamoyl]-1-methylsulfanyl-propyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.07 g, 87% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)[C@@H]([C@@H](C)C(NCCC1=CC(=CC=C1)O)=O)SC | C22H34N2O4S
